* C:\Users\user\Desktop\python_spice\root_con\practice_optpy.asc 
V1 source 0 SINE(0 1 20e3) 
R1 cap source 100 
C1 cap 0 1µ 
.tran 2m 
.backanno 
.end 
