* C:\Users\user\Desktop\python_spice\validate_pv_model\pv.asc
R1 N001 0 1973.35
R2 N001 N002 6.39445
D1 N001 0 DPV
V1 N002 0 0
I1 0 N001 0.15449
.model DPV D(Is=2.50879e-9 N=25.3762 Tnom=24)
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 11.3 1m
.backanno
.end
