* C:\Users\user\Desktop\python_spice\validate_pv_model\pv.asc
R1 N001 0 2184.82
R2 N001 N002 2.5568
D1 N001 0 DPV
V1 N002 0 0
I1 0 N001 0.02646
.model DPV D(Is=0.12814e-9 N=4.1216 Tnom=22)
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 2 0.1m
.backanno
.end
