* C:\Users\user\Desktop\python_spice\validate_pv_model\pv.asc
R1 N001 0 684.519
R2 N001 N002 0.616566
D1 N001 0 DPV
V1 N002 0 0
I1 0 N001 0.099985
.model DPV D(Is=19.4231e-12 N=1.734 Tnom=25)
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 1 0.1m
.backanno
.end
