* C:\Users\user\Desktop\python_spice\validate_pv_model\pv.asc
R1 N001 0 762.018
R2 N001 N002 1.2183
D1 N001 0 DPV
V1 N002 0 0
I1 0 N001 1.03233
.model DPV D(Is=3.00257e-6 N=48.8096 Tnom=45)
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 18 1m
.backanno
.end
