* C:\Users\user\Desktop\python_spice\validate_pv_model\pv.asc
R1 N001 0 52.4768
R2 N001 N002 0.0367251
D1 N001 0 DPV
V1 N002 0 0
I1 0 N001 0.760849
.model DPV D(Is=0.298145e-6 N=1.4 Tnom=33)
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 0.6 0.1m
.backanno
.end
