* C:\Users\user\Desktop\python_spice\validate_pv_model\pv.asc
R1 N001 0 398.4280
R2 N001 N002 1.7795
D1 N001 0 DPV
V1 N002 0 0
I1 0 N001 0.2
.model DPV D(Is=9.08e-10 N=10.2 Tnom={T})
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.step param T 10 50 10
.dc V1 0 6 1m
.backanno
.end
